US09163027B2
4-[2-({5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)ethoxy]pyridine
A mixture of 2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)ethan-1-ol (100 mg, 0.446 mmol), triphenylphosphine (175 mg, 0.670 mmol), 4-hydroxypyridine (55 mg, 0.58 mmol), and tetrahydrofuran (0.5 mL) was added to a 20 mL scintillation vial. The mixture was placed in a sonicating bath, and diisopropyl azodicarboxylate (0.133 mL, 0.67 mmol) was added dropwise. Sonication was allowed to continue for 15 min, and progress of the reaction was monitored by HPLC with UV detection at 215 nm. Water (5 mL) was added to the mixture, stirred, and decanted. The oily residue was dissolved in 50 mL of ethyl acetate and extracted with 3 mL of 1 M aqueous HCl. The acidic layer was separated, and the pH was adjusted to basic with saturated aqueous sodium bicarbonate. The basic layer was extracted with 4 mL of ethyl acetate which was dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was purified by silical gel chromatography using a gradient elution of 0-10% methanol in dichloromethane. The title compound was obtained as a white powder (0.025 g, 19% yield). EM (calc.): 301.1; MS (ESI) m/e: 302.1 (M+H)+. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 8.38 (dd, 2H), 7.13 (s, 1H), 7.04 (dd, 2H), 4.43 (t, 2H), 3.62 (t, 2H), 2.67 (s, 3H), 2.55 (s, 3H).

reactant | 2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)ethan-1-ol | 0.446 mmol, 100 mg | CC1=NC=2N(C(=C1)C)N=C(N2)SCCO | C9H12N4OS
reactant | triphenylphosphine | 0.670 mmol, 175 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxypyridine | 0.58 mmol, 55 mg | OC1=CC=NC=C1 | C5H5NO
reactant | diisopropyl azodicarboxylate | 0.67 mmol, 0.133 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | Water | 5 mL | O | H2O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 4-[2-({5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)ethoxy]pyridine | CC1=NC=2N(C(=C1)C)N=C(N2)SCCOC2=CC=NC=C2 | C14H15N5OS
